US06066657
2-Formyl-7-methoxybenzofuran
2-(2-Formyl-6-methoxyphenoxy)acetaldehyde, dimethyl acetal (31 g) was heated to reflux in glacial acetic acid (120 ml) overnight. The mixture was then cooled and the solvent removed in vacuo to give a red oil. Purification by Kugelrohr distillation gave the title compound (17 g) as a pale yellow oil which solidified on standing.

reactant | 2-(2-Formyl-6-methoxyphenoxy)acetaldehyde | C(=O)C1=C(OCC=O)C(=CC=C1)OC | C10H10O4
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 2-Formyl-7-methoxybenzofuran | 17 g | C(=O)C=1OC2=C(C1)C=CC=C2OC | C10H8O3
